Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left-sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Neurology at bedside for evaluation after code stroke activation
within: 5 minutes

Time/Date the patient was last known well: 9:15 ___

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not given/considered: NIHSS too low

Endovascular intervention: []Yes [x]No

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale - Total [3]

1a. Level of Consciousness - 0
1b. LOC Questions -0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 1
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 2
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

HPI: 
___ is a ___ year old right handed woman with history of
tension headaches, recurrent chest pain of unclear etiology,
possible panic attacks presenting with anxiety, lightheadedness,
SOB, ? tinnitus, LUE and LLE heaviness while in triage, at which
point a code stroke was called.

Notably, patient is quite anxious, tremulous, repeatedly asking
if she can go to the bathroom and if examiner can call her 
family
during code stroke evaluation. In this setting, patient had
difficulty actively participating in history (easily
distractable, perseverating about her bladder and her phone
charger and needing to call family), thus limiting history.   

Patient reports that on ___ she was completely at baseline. 
In
the morning of ___ (unsure if when she awoke, thinks it was
all day), patient reports feeling lightheaded, SOB, anxious,
"hearing something" in her bilateral ears (? tinnitus). Patient
came in to the ED. While in triage, reported acute onset left
upper and lower extremity "heaviness." Per ED, upper and lower
extremity drift on their examination. 

Denies headache (reports intermittent bitemporal squeezing
tension headaches, none currently or recently), neck pain, 
vision
changes (reports baseline needing reading glasses but no changes
in vision), diplopia, confusion, difficulty producing or
understanding speech, dysarthria, difficulty ambulating, sensory
changes. 

Denies recent illnesses, fevers, URI, abdominal pain,
constipation, diarrhea, incontinence of urine or stool. Reports
baseline intermittent sharp pleuritic pain when breathing in and
feeling like she is unable to breathe out easily. Denies
palpitations. Denies leg pain, swelling, or discoloration. 

Reports heavy menses with clots at baseline. Reports she is
currently having her menses but no clots currently.
 
Past Medical History:
Ovarian torsion s/p surgery 
Tension headaches
Heavy menses
Mild anemia 
 
Social History:
___
Family History:
Mother with sarcoid deceased in her ___, patient thinks had 
stroke years before her death (prior notes say mother had an 
MI). Patient thinks her mother, possibly someone else with 
migraines. Grandmother with HTN. 
 
Physical Exam:
ADMISSION EXAM:
Vitals:  T: 97.7   HR: 115  BP: 162/100   RR: 16  SaO2: 100% RA
General: Very anxious, tremulous but non-toxic appearing
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: tachycardic
Pulmonary: CTAB, no crackles or wheezes
Abdomen: ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Anxious and 
perseverative about needing to use the restroom, needing to call 
her family, wanting examiner to call her family even during 
initial code stroke evaluation. Speech is fluent with full 
sentences, intact repetition, and intact verbal comprehension. 
Naming intact.  No paraphasias.  No dysarthria. Normal prosody. 
No apraxia. No evidence of hemineglect; able to describe stroke 
card picture without difficulty. No left-right confusion. Able 
to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. Very subtle nasolabial fold flattening on left as 
compared to right. Notably, on repeat examination after 
reviewing CT when patient reporting right ___ heaviness patient 
then with symmetric NLF and possibly very subtle flattening of 
the NLF bilaterally. Hearing intact to finger rub bilaterally.  
Palate elevation symmetric. SCM/Trapezius strength ___ 
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift; at first on initial 
examination (pre CT), seems to take patient more effort to lift 
LUE and LLE and possibly some very subtle orbiting. On repeat 
testing after CT resolved with patient reporting right sided ___ 
heaviness but strength full. Whole body tremulousness at first. 
No asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic]        [___]        [Quad] [Gastroc]
 L  2+ brisk       2+ brisk      2       1
 R  2+ brisk       2+ brisk      2       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception 
bilaterally. At some points during testing patient says she 
thinks is slightly less to LT or pin on left but with immediate 
repeat says is equal.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing on 
right; intention tremor with very slight dysmetria on end reach 
on left. Heel knee shin also with mild dysmetria on left.

- Gait: Deferred; placed patient HOB flat. 

DISCHARGE EXAM: Normal
 
Pertinent Results:
ADMISSION LABS: ___
WBC-5.8 Hgb-9.2* Hct-31.0* Plt ___ PTT-31.7 ___
UreaN-10 Creat-0.7 Na-130* K-5.4* Cl-96 HCO3-21* AnGap-18
ALT-64* AST-130* AlkPhos-45 GGT-54*
TotProt-6.8 Albumin-4.2 Globuln-2.6
cTropnT-<0.01  ___ 09:20PM, ___ 09:20PM, ___ 
03:30AM) 

UA: moderate blood, otherwise bland

STROKE RISK FACTORS:
Cholest-193 Triglyc-62 HDL-92 CHOL/HD-2.1 LDLcalc-89
%HbA1c-5.0 eAG-97
TSH-2.0
CRP-0.5

Imaging:
CTA Head/Neck:
IMPRESSION:
1. No evidence of intracranial hemorrhage or acute infarction.
2. Prominent venous cortical branches with a focal outpouching 
draining into
the left transverse sinus, likely representing vascular venous 
anatomical
variation.
3. Multiple prominent vessels in the right masticator space with 
a prominent
vessel extending anterior to the right temporal lobe; finding is 
nonspecific
and may represent prominent venous plexus although possibility 
of an
additional vascular fistula or malformation is not excluded.

MRI brain:
IMPRESSION:
1. Essentially normal MRI of the brain, with no evidence of 
acute intracranial
process or acute/subacute ischemic changes.
 
Brief Hospital Course:
___ is a ___ year old woman who had lightheadedness and 
SOB, followed by left hemibody heaviness, and marching numbness 
of the left hemibody. Her sensory deficits persisted after 
admission (L side 60% of R to light touch), and MRI was negative 
for stroke. Her symptoms thought to be due to atypical migraine, 
possibly stress reaction though there was no clear stressor. A 
vascular cause is unlikely. Otherwise, her workup was notabl for 
A1C of 5 and LDL 89. Vessels were patent.

During her hospitalization, she was noted to have elevated BP 
and was started on lisinopril 2.5 mg daily. She had an episode 
of disorientation overnight which resolved. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ you were admitted to ___ for lightheadedness 
and shortness of breath  followed left body heaviness. You 
underwent an MRI of your brain which did not show any acute 
intracranial abnormality such as a stroke. We believe your 
symptoms were due to migraine. 
We made the following changes to your medication:
added lisinopril 2.5 mg daily for high blood pressure 
Please take your medications as instructed. 

It was a pleasure taking care of you.

Your ___ care team
 
Followup Instructions:
___